US06509328B1
3-[7-(4-Ethyl-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile
Prepared from (3-amino-4′-ethyl-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G8) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) according to the general procedure K. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a beige solid (67 mg).

reactant | (3-amino-4′-ethyl-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)CC)N)=O | C19H24N2O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[7-(4-Ethyl-phenyl)-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile | 67 mg | C(C)C1=CC=C(C=C1)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C24H19N3O
